* Declared idealoutsideequipotential target pieces; othercontexts ground.
C2 0 P 6.4606100000000006e-18
C7 0 P 1.36582e-16
C11 0 P 2.1723000000000001e-17
C14 0 P 5.33398e-17
C16 0 P 1.8131800000000001e-17
C18 P 0 8.9985100000000004e-16
VP P 0 DC 0 AC 1
.control
set numdgt=17
ac lin 1 1Meg 1Meg
let ceff = -imag(i(VP))/(2*pi*1e6)
print ceff
echo LOCAL_CAP_AC_END
quit
.endc
.end
